US20010047094A1
Diethoxythioacetamide
To a suspension of phosphorus pentasulfide (27 g) in dry THF (100 ml) at 0° C. under vigorous stirring, Na2CO3 (13 g) was added. The reaction mixture was stirred for 30 min at 0° C. and for 30 min at r.t., then diethoxyacetamide (6 g) was added and stirring was continued at r.t. for 70 h. The reaction was then diluted with EA, washed with 10% Na3PO4 brine, dried over Na2SO4 and the solvent removed in vacuo. The crude residue was purified by flash-chromatography (EE/PE 1/1) to give the title compound as a white solid (4.4 g).

reactant | phosphorus pentasulfide | 27 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Na2CO3 | 13 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | diethoxyacetamide | 6 g | C(C)OC(C(=O)N)OCC | C6H13NO3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | Diethoxythioacetamide | 4.4 g | C(C)OC(C(=S)N)OCC | C6H13NO2S
